US08247612B2
To a solution of 5.0 g of 4,4,4-trifluoro-3-methylthio-butyl methanesulfonate and 4.6 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide was added 0.8 g of sodium hydride (60% in oil) at room temperature. The reaction mixture was heated to 60° C., stirred at the same temperature for 5 days, and then allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 2.00 g of methyl 6,6,6-trifluoro-5-methylthio-2-(3,3,3-trifluoropropylsulfonyl)hexanoate (hereinafter referred to as the present compound (27)).

reactant | 4,4,4-trifluoro-3-methylthio-butyl methanesulfonate | 5.0 g | CS(=O)(=O)OCCC(C(F)(F)F)SC | C6H11F3O3S2
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 4.6 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 6,6,6-trifluoro-5-methylthio-2-(3,3,3-trifluoropropylsulfonyl)hexanoate | 2.00 g | FC(C(CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)SC)(F)F | C11H16F6O4S2
